US08669234B2
(1-{4-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-5,5-dimethyl-thiazolidine-3-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (83 mg, 0.167 mmol) was combined with (1-{2-[5-(4-Ethynyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (66.0 mg, 0.167 mmol) and PdCl2(PPh3)2 (11.7 mg, 0.017 mmol) under an argon atmosphere. DMF (2.0 mL degassed with Argon) was added followed by triethylamine (168 mg, 1.67 mmol) and copper(I) iodide (3.2 mg, 0.017 mmol). The mixture was heated at 80° C. After 20 hours, volatiles were removed in vacuo and the crude material was semi-purified via chromatography on silica gel (eluent EtOAc w MeOH 10%/hexanes) and further purified via RP-HPLC (eluent: water/MeCN w 0.1% TFA) to yield the product [1-(4-{5-[4-(4-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenylethynyl)-phenyl]-1H-imidazol-2-yl}-5,5-dimethyl-thiazolidine-3-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester (32.1 mg) as a TFA salt.

reactant | (1-{4-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-5,5-dimethyl-thiazolidine-3-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.167 mmol, 83 mg | COC(NC(C(C)C)C(=O)N1CSC(C1C=1NC(=CN1)C1=CC=C(C=C1)Br)(C)C)=O | C21H27BrN4O3S
reactant | (1-{2-[5-(4-Ethynyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.167 mmol, 66.0 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C#C)=O | C22H26N4O3
reactant | triethylamine | 1.67 mmol, 168 mg | C(C)N(CC)CC | C6H15N
catalyst | PdCl2(PPh3)2 | 0.017 mmol, 11.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.017 mmol, 3.2 mg | [Cu]I
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | [1-(4-{5-[4-(4-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenylethynyl)-phenyl]-1H-imidazol-2-yl}-5,5-dimethyl-thiazolidine-3-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | 32.1 mg | COC(NC(C(C)C)C(=O)N1CSC(C1C=1NC(=CN1)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)(C)C)=O | C43H52N8O6S
